US09376436B2
A solution of tert-butyl (2R,5R)-2-[4-(5-ethoxy-2-fluoro-phenyl)-3-methyl-2-pyridyl]-7-methyl-6-oxo-1,7-diazaspiro[4.4]nonane-1-carboxylate (which may be prepared as described in Description 100)(74.2 mg, 0.1500 mmol) in 4M HCl in dioxane (0.38 mL, 1.53 mmol) was stirred for 2 hours. The reaction was then concentrated in vacuo. The residue was loaded onto an SCX cartridge which was eluted with MeOH and 0.5 M methanolic ammonia. The basic fractions were combined and concentrated in vacuo to give (2R,5R)-2-[4-(5-ethoxy-2-fluoro-phenyl)-3-methyl-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]nonan-6-one (55.6 mg, 0.1450 mmol, 94.524% yield) as a colourless oil (5182RTS331-A1, >95% pure);

reactant | tert-butyl (2R,5R)-2-[4-(5-ethoxy-2-fluoro-phenyl)-3-methyl-2-pyridyl]-7-methyl-6-oxo-1,7-diazaspiro[4.4]nonane-1-carboxylate | 0.1500 mmol, 74.2 mg | C(C)OC=1C=CC(=C(C1)C1=C(C(=NC=C1)[C@@H]1N([C@@]2(CC1)C(N(CC2)C)=O)C(=O)OC(C)(C)C)C)F | C27H34FN3O4
reactant | dioxane | 1.53 mmol, 0.38 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 4M | Cl | ClH
product | (2R,5R)-2-[4-(5-ethoxy-2-fluoro-phenyl)-3-methyl-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]nonan-6-one | 0.1450 mmol, 55.6 mg, 94.524% yield | C(C)OC=1C=CC(=C(C1)C1=C(C(=NC=C1)[C@@H]1N[C@@]2(CC1)C(N(CC2)C)=O)C)F | C22H26FN3O2
